US07935725B2
Step A: 4-(Benzothiazol-2-yloxy)-2-fluoro-benzoic acid.
A solution of 2-fluoro-4-hydroxy-benzoic acid (4.0 g, 25.6 mmol) in DMF (250 mL) was added Cs2CO3 (9.2 g, 28.2 mmol) and the reaction mixture was stirred at 80° C. for 1 h prior to the addition of 2-chloro-benzothiazole (3.3 mL, 25.6 mmol). The reaction mixture was stirred at 100° C. for 50 h, then cooled to rt, and the solid was filtered. The filtrate was diluted with EtOAc (200 mL) and water (100 mL), neutralized with 1 M HCl and the organic layer was separated. The aqueous layer was extracted with EtOAc (2×200 mL). The organic layers were combined, dried (Na2SO4), filtered, and concentrated to afford the title compound as a colorless solid (4.7 g, 63%). MS (ESI): mass calcd. for C14H8FNO3S, 289.0; m/z found, 290.1 [M+H]+. 1H NMR (400 MHz, CD3OD): 8.21 (t, J=8.5 Hz, 1H), 7.99 (d, J=8.5 Hz, 1H), 7.87 (d, J=8.11 Hz, 1H), 7.63-7.45 (m, 4H).

reactant | 2-fluoro-4-hydroxy-benzoic acid | 25.6 mmol, 4.0 g | FC1=C(C(=O)O)C=CC(=C1)O | C7H5FO3
reactant | Cs2CO3 | 28.2 mmol, 9.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloro-benzothiazole | 25.6 mmol, 3.3 mL | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 4-(Benzothiazol-2-yloxy)-2-fluoro-benzoic acid | 4.7 g, 63% | S1C(=NC2=C1C=CC=C2)OC2=CC(=C(C(=O)O)C=C2)F | C14H8FNO3S
